US05840732
ii) Synthesis of 5-[3-(4-fluorophenyl)propylidene]-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride
To a methanol solution of 0.88 g (1.9 mmol) of 5-[3-(4-fluorophenyl)propylidene]-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione, 1.0 ml of 4N hydrochloric acid-ethyl acetate was added, followed by stirring. After the solvent was distilled off, the residue was dissolved in methanol and recrystallized from hexane to yield 0.78 g (83.1%, white crystal) of the desired product.

reactant | 5-[3-(4-fluorophenyl)propylidene]-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 1.9 mmol, 0.88 g | FC1=CC=C(C=C1)CCC=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C23H22FN3O2S2
reactant | hydrochloric acid ethyl acetate | 4N, 1.0 ml | Cl.C(C)(=O)OCC
solvent | methanol | CO | CH4O
product | 5-[3-(4-fluorophenyl)propylidene]-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride | Cl.FC1=CC=C(C=C1)CCC=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | InChI=1S/C23H22FN3O2S2.ClH/c24-18-11-9-17(10-12-18)5-3-6-19-22(28)27(23(29)31-19)14-1-2-16-30-21-8-4-7-20-25-13-15-26(20)21;/h4,6-13,15H,1-3,5,14,16H2;1H
